US08735595B2
2-(4-methoxyphenoxy)-1,3-thiazole
A mixture of 4-methoxyphenol (5.50 g, 44.3 mmol, 1.1 eq.), 2-bromothiazole (6.64 g, 40.0 mmol, 1.0 eq.), and K2CO3 (6.60 g, 47.8 mmol, 1.2 eq.) in dimethyl sulfoxide (40 mL) was heated to 160° C. for 5 hours. The reaction mixture was poured into water and extracted with ether. The ether layer washed with 10% NaOH, then brine, dried over MgSO4, filtered and concentrated. The residue was purified on silica gel eluting with ethyl acetate:hexane (0-20%) to give the title compound (6.03 g, 73%),

reactant | 4-methoxyphenol | 44.3 mmol, 5.50 g, 1.1 eq. | COC1=CC=C(C=C1)O | C7H8O2
reactant | 2-bromothiazole | 40.0 mmol, 6.64 g, 1.0 eq. | BrC=1SC=CN1 | C3H2BrNS
reactant | K2CO3 | 47.8 mmol, 6.60 g, 1.2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | 2-(4-methoxyphenoxy)-1,3-thiazole | 6.03 g, 73% | COC1=CC=C(OC=2SC=CN2)C=C1 | C10H9NO2S
